US04279920
4.6 g (0.2 mol) of sodium were dissolved in portions in 100 ml of ethanol. When all the sodium had dissolved, 100 ml of tetrahydrofuran (anhydrous) were added, and 68.3 g (0.2 mol) of 4-chloro-α-bromo-benzyl-phosphonic acid diethyl ester, dissolved in 50 ml of anhydrous tetrahydrofuran, were added dropwise at 0° C., whilst stirring. After the mixture had been subsequently stirred at 0°-5° C. for a further 2 hours, 34 g (0.2 mol) of cis/trans-2,2-dimethyl-3-formyl-cyclopropanecarboxylic acid ethyl ester, dissolved in 50 ml of anhydrous tetrahydrofuran, were added dropwise at 0° C., whilst stirring. The mixture was then subsequently stirred at 20°-25° C. for a further 12 hours. 600 ml of water were then added to the reaction mixture and the mixture was extracted twice with 300 ml of methylene chloride each time. The organic phase was separated off and dried over magnesium sulphate, the solvent was distilled off under a waterpump vacuum and the residue was distilled in vacuo. 34.5 g (48.3% of theory) of 2,2-dimethyl-3-(2-bromo-2-(4-chloro-phenyl)-vinyl)-cyclopropanecarboxylic acid ethyl ester (cis, trans and E, Z isomer mixture) were obtained as a yellow oil with a boiling point of 160°-165° C./1 mm Hg.

reactant | sodium | 0.2 mol, 4.6 g | [Na] | Na
reactant | 4-chloro-α-bromo-benzyl-phosphonic acid diethyl ester | 0.2 mol, 68.3 g | C(C)OP(OCC)(=O)C(C1=CC=C(C=C1)Cl)Br | C11H15BrClO3P
reactant | cis trans-2,2-dimethyl-3-formyl-cyclopropanecarboxylic acid ethyl ester | 0.2 mol, 34 g | C(C)OC(=O)C1C(C1C=C(C1=CC=C(C=C1)Cl)Br)(C)C.C(C)OC(=O)[C@@H]1C([C@H]1C=O)(C)C
reactant | water | 600 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-(2-bromo-2-(4-chloro-phenyl)-vinyl)-cyclopropanecarboxylic acid ethyl ester | 34.5 g, 48.3% | C(C)OC(=O)C1C(C1C=C(C1=CC=C(C=C1)Cl)Br)(C)C | C16H18BrClO2
